US06303610B1
Preparation of 3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)-N-(methylaminocarbonyl)amino]-2-[N-(2-((4-phenyl)piperazin-1-yl)acetyl)amino]propane
To a room temperature solution of 3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)amino]-2-[N-(2-((4-phenyl)piperazin-1-yl)acetyl)amino]propane (0.40 g, 0.78 mmole) in 10 ml of anhydrous tetrahydrofuran was added dropwise methyl isocyanate (140 μl, 2.3 mmoles). The resulting mixture was then stirred for 16 hours at room temperature. The tetrahydrofuran was removed in vacuo. The title product was isolated by consecutive washes with ethyl acetate, water, and brine, and then dried over sodium sulfate. Flash chromatography using silica gel and a methanol/methylene chloride (5/95) eluant provided 396 mg of the homogeneous product as a yellow oil.

reactant | 3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)amino]-2-[N-(2-((4-phenyl)piperazin-1-yl)acetyl)amino]propane | 0.78 mmole, 0.40 g | N1C=C(C2=CC=CC=C12)CC(CNCC1=C(C=CC=C1)OC)NC(CN1CCN(CC1)C1=CC=CC=C1)=O | C31H37N5O2
reactant | methyl isocyanate | 2.3 mmoles, 140 μl | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(1H-indol-3-yl)-1-[N-(2-methoxybenzyl)-N-(methylaminocarbonyl)amino]-2-[N-(2-((4-phenyl)piperazin-1-yl)acetyl)amino]propane | N1C=C(C2=CC=CC=C12)CC(CN(C(=O)NC)CC1=C(C=CC=C1)OC)NC(CN1CCN(CC1)C1=CC=CC=C1)=O | C33H40N6O3
